US05876756
In 5 ml of trifluoroacetic acid was dissolved 500 mg of (S)-4-benzyloxycarbonylaminoacetyl-3-(3-t-butoxycarbonylaminopropyl)-2-oxopiperazine-1-acetic acid t-butyl ester. The solution was stirred for one hour at room temperature. The reaction mixture was concentrated under reduced pressure to leave an oily product, which was dissolved in 10 ml of methanol. To the solution was added 10 mg of 10% palladium-carbon. The mixture was stirred for one hour at room temperature under hydrogen atmosphere. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure to leave a crude product of (S)-4-aminoacetyl-3-aminopropyl-2-oxopiperazine-1-acetic acid. This product was dissolved in a mixture of 10 ml of water and 10 ml of dioxane. To the solution was added 400 mg of sodium hydrogen carbonate. Subsequently, 420 mg of 3-(4-carboxyphenylamino)-1,2,4-oxadiazolin-4H-5-one produced in Reference Example 25 and 250 mg of N-hydroxysuccinimide were dissolved in 5 ml of dimethylformamide. To the solution was added 450 mg of dicyclohexyl carbodiimide. The mixture was stirred for 3 hours at room temperature, then concentrated under reduced pressure to leave an oily substance. This substance was dissolved in 5 ml of dioxane, and added to the solution of (S)-4-aminoacetyl-3-aminopropyl-2-oxopiperazine-1-acetic acid prepared as above. The mixture was stirred for 6 hours at room temperature. The reaction mixture was neutralized with 1N HCl, then concentrated under reduced pressure to give a crude product, followed by purification by means of a sephadex LH-20 column to afford 230 mg of the title compound as a colorless amorphous powdery product.

reactant | (S)-4-benzyloxycarbonylaminoacetyl-3-(3-t-butoxycarbonylaminopropyl)-2-oxopiperazine-1-acetic acid t-butyl ester | 500 mg | C(C)(C)(C)OC(CN1C([C@@H](N(CC1)C(CNC(=O)OCC1=CC=CC=C1)=O)CCCNC(=O)OC(C)(C)C)=O)=O | C28H42N4O8
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium-carbon | 10 mg | [C].[Pd]
product | (S)-4-aminoacetyl-3-aminopropyl-2-oxopiperazine-1-acetic acid | NCC(=O)N1[C@H](C(N(CC1)CC(=O)O)=O)CCCN | C11H20N4O4
